US06521759B2
To a solution of 50 mg (0.23 mmol, Applied Chemical Laboratory) of N-[5-(acetylthio)-2-thiazolyl]acetamide in 10 mL of THF was added 0.25 mL of potassium tert-butoxide solution (1 M solution, 0.25 mmol) at rt under argon. The resulting suspension was stirred for 15 min at rt, then a solution of 59 mg of 2-(chloromethyl)-5-t-butyloxazole (0.34 mmol) in 1 mL of THF was added. The resulting mixture was stirred at rt for 16 h, concentrated under reduced pressure and purified by flash column chromatography (silica gel, 25×200 mm, 1:1 EtOAc/hexanes followed by 100% EtOAc) to give 44 mg (0.14 mmol, 61%) of N-[5-[[(5-t-butyl-2-oxazolyl)methyl]thio]-2-thiazolyl]acetamide as a white solid.

reactant | N-[5-(acetylthio)-2-thiazolyl]acetamide | 0.23 mmol, 50 mg | C(C)(=O)SC1=CN=C(S1)NC(C)=O | C7H8N2O2S2
reactant | potassium tert-butoxide | 0.25 mmol, 1 M, 0.25 mL | CC(C)([O-])C.[K+]
reactant | 2-(chloromethyl)-5-t-butyloxazole | 0.34 mmol, 59 mg | ClCC=1OC(=CN1)C(C)(C)C | C8H12ClNO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-[5-[[(5-t-butyl-2-oxazolyl)methyl]thio]-2-thiazolyl]acetamide | 0.14 mmol, 44 mg, 61% | C(C)(C)(C)C1=CN=C(O1)CSC1=CN=C(S1)NC(C)=O | C13H17N3O2S2
